US06369146B1
To the reaction flask, DL-malic acid (100.43 g), 1-pentanol (325 mL) and Amberlyst® 15 ion exchange resin (14.2 g) were added. The mixture was placed under nitrogen and heated to reflux. At 108° C., two phases started to collect in the Dean-Stark trap. The reaction was maintained at 110-120° C. for 4 hr 15 min and water was continuously removed. The product was separated from the catalyst via filtration over silica using 300 mL diethyl ether. The organic layer was washed 4 times with saturated sodium bicarbonate, washed once with water, and dried over magnesium sulfate. Diethyl ether was removed via rotary evaporation. Dipentyl-DL-malate was obtained as a low viscosity, slightly hazy, very light yellow liquid with a slight pleasant odor (116.5 g, 55.6% yield) after pumping on the sample in vacuo to remove residual 1-pentanol.

reactant | DL-malic acid | 100.43 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 1-pentanol | 325 mL | C(CCCC)O | C5H12O
product | Dipentyl-DL-malate | 55.6% yield | C(CCCC)OC(C(O)CC(=O)OCCCCC)=O | C14H26O5
